US07423175B2
N-[2-(4-Fluorophenoxy)ethyl]-N′-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)urea
To 2-(4-Fluorophenoxy)ethylamine (27.4 mg, 0.18 mmol) was added a solution of (7-Hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-carbamic acid phenyl ester (50.0 mg, 0.18 mmol) in 1.5 mL dimethylsulfoxide. The mixture was stirred for 40 minutes, and then poured into water. The resulting solid was filtered and dried under reduced pressure (54.2 mg, 89.2% yield).

reactant | 2-(4-Fluorophenoxy)ethylamine | 0.18 mmol, 27.4 mg | FC1=CC=C(OCCN)C=C1 | C8H10FNO
reactant | (7-Hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-carbamic acid phenyl ester | 0.18 mmol, 50.0 mg | C1(=CC=CC=C1)OC(NC1=CC=CC=2CCC(CC12)O)=O | C17H17NO3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1.5 mL | CS(=O)C | C2H6OS
product | N-[2-(4-Fluorophenoxy)ethyl]-N′-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)urea | 89.2% yield | FC1=CC=C(OCCNC(=O)NC2=CC=CC=3CCC(CC23)O)C=C1 | C19H21FN2O3
